US07550478B2
3-chloro-7-ethyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-ol (Compound 338)
3-chloro-7-vinyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (20 mg, 0.075 mmol) was dissolved in 1 mL of tetrahydrofuran. Rh(COD)2BF4 (3 mg, 0.007 mmol) was added followed by a dropwise addition of 9-BBN (0.44 mL of 0.5 M in THF, 0.22 mmol) and the reaction was stirred overnight. The reaction was cooled to 0° C. and quenched by the simultaneous addition of 1M sodium hydroxide (2.5 ml) and 30% aqueous hydrogen peroxide (0.75 mL) and stirred for 5 hours. The resulting solution was poured into ethyl acetate and brine and extracted three times with ethyl acetate. The combined organics were dried over magnesium sulfate, dried over magnesium sulfate, concentrated in vacuo, and purified via flash chromatography (0-60% ethyl acetate/hexanes) to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 8.41 (s, 1H); 8.03 (s, 1H); 7.54 (s, 1H); 7.28 (m, 2H); 7.17-7.14 (m, 2H); 5.31 (s, 1H); 2.70 (q, 2H); 1.25 (t, 3H). Hydroxyl proton was not observed. LRMS (APCI) calc'd for (C16H15ClNO) [M+H]+, 272.1; found 272.1.

reactant | 3-chloro-7-vinyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.075 mmol, 20 mg | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C=C | C16H10ClNO
reactant | 9-BBN | 0.22 mmol, 0.5 M, 0.44 mL | B1C2CCCC1CCC2 | C8H15B
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-chloro-7-ethyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-ol | ClC=1C=C2C(=NC1)C=CC1=C(C2O)C=C(C=C1)CC | C16H14ClNO
